2191-04-23 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   stable overnight
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2191-4-22**] 09:30 PM
   Vancomycin - [**2191-4-23**] 09:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-23**] 09:04 AM
   Other medications:
   levaquin
   asa 325
   perphenazine
   divalproate 1500
   colace
   heparin 5000 tid
   lopressor 12.5 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea, Wheeze
   Flowsheet Data as of  [**2191-4-23**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 134 (67 - 138) bpm
   BP: 85/68(72) {71/37(49) - 97/68(72)} mmHg
   RR: 24 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 67 Inch
             Total In:
                                                                  3,315 mL
                                                                  2,343 mL
   PO:
             40 mL
   TF:
   IVF:
                                                                  2,075 mL
                                                                  2,303 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    330 mL
   Urine:
                                                                    320 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,995 mL
                                                                  2,013 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, discheveled
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), sinus arrythmia, frequent
   pvcs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : LLL, Rhonchorous:
   diffusely)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.3 g/dL
   93 K/uL
   83 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   35 mg/dL
   111 mEq/L
   140 mEq/L
   34.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2191-4-22**]  09:21 PM
                             [**2191-4-23**]  03:11 AM
   WBC
   7.5
   Hct
   34.1
   Plt
   93
   Cr
   0.9
   TropT
   0.01
   0.02
   Glucose
   83
   Other labs: PT / PTT / INR:15.7/29.9/1.4, CK / CKMB /
   Troponin-T:1229/8/0.02, Differential-Neuts:72.8 %, Lymph:20.5 %,
   Mono:6.4 %, Eos:0.2 %, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   86 yo F schizophrenia, PAF here [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1321**]-care associated PNA
   1. PNA:
    - respiratory status stable with 3L NC requirement, intermittent
   fevers
    - cont vanc for MRSA, cefepime for nosocomial pna, levaquin
    - h/o esbl klebs in urine but recent cultures have been panS, will d/w
   ID need for meropenem, if not would prefer vanc/cef
   2.  HYPOTENSION (NOT SHOCK): likely in setting of pneumonia
    - ivf as needed
    - heart rate control
   3. PAF: episodes AF RVR, likely driven by hypoxemia/pneumonia
    - cont lopressor as tolerated
    - amiodarone if hotn and afib rvr persist
    - ivf repletion
   4. Schizophrenia:
    - cont antipsychotics (depakote, perphenazine)
   5. FEN: coughing with all oral meds, and PO intake
    - slp eval
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2191-4-22**] 05:14 PM
   20 Gauge - [**2191-4-22**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2191-04-24 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Continued cefepime.
   -Given 4L in NS/LR boluses.
   -BP dropped with AM metoprolol to 80s sytolic.  HR in 100s-130s.
   -Given Digoxin 0.125mg IV; held metoprolol given concern for BP
   -Noted to have difficulty swallowing dinner and puree with pills.  Made
   NPO and changed Levoflox to IV.
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-23**] 09:04 AM
   Levofloxacin - [**2191-4-23**] 11:00 AM
   Cefipime - [**2191-4-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-23**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-24**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 118 (67 - 134) bpm
   BP: 92/42(53) {71/27(38) - 111/87(132)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 67 Inch
             Total In:
                                                                  4,560 mL
                                                                     63 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                  4,490 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    215 mL
   Urine:
                                                                    595 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,965 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   Gen: A&O x3, resting comfortably, no distress
   HEENT: NC AT EOMI PERRLA
   Neck: supple, JVP flat
   CV: irregular, s1 s2, frequent premature beats
   Lungs: bronchial breath sounds bilateral bases, L>R, no wheezing
   Abd: well healed midline surgical scar, ventral hernia, distended,
   nontender, bowel sounds positive
   Ext: warm, palpable DP's, trace edema
   Labs / Radiology
   109 K/uL
   11.0 g/dL
   85 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   34 mg/dL
   113 mEq/L
   143 mEq/L
   34.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2191-4-22**]  09:21 PM
                             [**2191-4-23**]  03:11 AM
                             [**2191-4-24**]  03:48 AM
   WBC
   7.5
   7.6
   Hct
   34.1
   34.6
   Plt
   93
   109
   Cr
   0.9
   0.8
   TropT
   0.01
   0.02
   Glucose
   83
   85
   Other labs: PT / PTT / INR:15.7/29.9/1.4, CK / CKMB /
   Troponin-T:1229/8/0.02, ALT / AST:19/56, Alk Phos / T Bili:41/0.3,
   Differential-Neuts:72.8 %, Lymph:20.5 %, Mono:6.4 %, Eos:0.2 %,
   Albumin:2.8 g/dL, LDH:223 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Legionella: negative
   Urine [**4-22**]: >100K GNR
   Blood cx [**4-22**]: NGTD
   Sputum [**4-23**]: Cancelled
   CXR [**4-23**];
   IMPRESSION: Limited study as above. There are patchy opacities in the
   mid
   and lower left lung highly consistent with pneumonia. Correlate
   clinically.
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 URINARY TRACT INFECTION (UTI)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 ATRIAL FIBRILLATION (AFIB)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN admitted with Healthcare assoc LLL pneumonia.
   .
   #Health Care Associated pneumonia - large left lower lobe infiltrate on
   CXR.  Respiratory function stable on admission, though has been
   desatting occationally and requiring face tent.  Borderline
   hypotension, fever of 103 and tachycardia c/w SIRS/sepsis yesterday.
   -continue with broad coverage vanc, cefepime, levo given h/o resistant
   gram negative organisms
   -IVF boluses prn
   -continue O2 by nasal cannula
   -Monitor BP closely
   -sputum culture contaminated -> resend
   -Legionella negative
   - Pulm Toilet
   .
   #Paroxysmal Atrial fibrillation - she was in RVR on admission with rate
   in th 150's responded to IV metoprolol x2.  In and out of Afib on
   arrival to the floor.  Yesterday was mostly in afib.  Dropped BP after
   given low dose metoprolol.  Likely exacerbated by acute infection on
   admission.
   -Given digoxin x1
   -not on anticoagulation at baseline
   -continue ASA 325
   -Will re-challenge with low dose metoprolol today
   .
   #UTI: urine cx with >100k GNR.  Cont antiobiotics as per above
   - Narrow as able
   .
   # Dysphagia: Had trouble yesterday swallowing pills and food.
   - Swallow eval
   - Puree with honey thickened liquids for now
   .
   #Schizophrenia - stable
   -continue depakote and perphenazine -> depakote sprinkles
   -takes perphenazine 2mg q4 as needed for agitation
   .
   #Hypertension - hypotensive on admission [**2-14**] sirs/sepsis
   -hold atenolol/amlodipine for now
   .
   #Lower extremity edema - hold home dose spironolactone for now given
   hypotension.
   ICU Care
   Nutrition: NPO pending swallow eval
   Comments: swallow eval
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-4-23**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: NA
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor if stable today
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I agree with the note above,
   including assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2191-4-24**] 17:59 ------

2191-04-24 09:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   appears to have difficulty swallowing POs, coughing with all PO intake
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-23**] 09:04 AM
   Levofloxacin - [**2191-4-23**] 11:00 AM
   Cefipime - [**2191-4-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-23**] 03:00 PM
   Other medications:
   asa 325
   perphenazine
   divalproate
   heparin
   lopressor (held)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-24**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 113 (102 - 129) bpm
   BP: 104/55(66) {71/27(38) - 111/87(132)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 67 Inch
             Total In:
                                                                  4,560 mL
                                                                     93 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                  4,490 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    215 mL
   Urine:
                                                                    595 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,965 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Rhonchorous: bases b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   109 K/uL
   85 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   34 mg/dL
   113 mEq/L
   143 mEq/L
   34.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2191-4-22**]  09:21 PM
                             [**2191-4-23**]  03:11 AM
                             [**2191-4-24**]  03:48 AM
   WBC
   7.5
   7.6
   Hct
   34.1
   34.6
   Plt
   93
   109
   Cr
   0.9
   0.8
   TropT
   0.01
   0.02
   Glucose
   83
   85
   Other labs: PT / PTT / INR:15.7/29.9/1.4, CK / CKMB /
   Troponin-T:1229/8/0.02, ALT / AST:19/56, Alk Phos / T Bili:41/0.3,
   Differential-Neuts:72.8 %, Lymph:20.5 %, Mono:6.4 %, Eos:0.2 %,
   Albumin:2.8 g/dL, LDH:223 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   86 yo F schizophrenia here w pna and UTI
   1. UTI:
    - given hx of multi-resistant [**Last Name (LF) 5720**], [**First Name3 (LF) 124**] cont cefepime and levo for
   now until cx data returns
    - will d/c foley
   2. PNA:
    - cont vanc/cef/levo
    - chest pt
    - accapella valve
    - oob to chair
   3. Afib:
    - will restart lopressor
    - cont asa 325
   4.  Schizophrenia:
    - cont current meds, will convert to IV/non PO formulation
   5. FEN:
    - will need slp eval given concern for aspiration
    - pureed diet
   6. Gait:
    - PT consult
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2191-4-23**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2191-04-25 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2191-4-24**] 01:00 PM
   depakote sprinkles given concern for aspiration
   250cc bolus for hypotension [**Month (only) 453**] UOP, after beta blocker
   500cc bolus
   IV 0.125mg dig given>>>BP improved 112/71, HR 100s
   made NPO until S&S in AM given coughing with dinner
   PICC line placed
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Cefipime - [**2191-4-23**] 10:00 PM
   Vancomycin - [**2191-4-24**] 09:00 AM
   Levofloxacin - [**2191-4-24**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-24**] 09:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 118 (99 - 127) bpm
   BP: 105/62(71) {72/34(45) - 118/89(101)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 67 Inch
             Total In:
                                                                  2,291 mL
                                                                    829 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  2,041 mL
                                                                    829 mL
   Blood products:
   Total out:
                                                                    637 mL
                                                                    235 mL
   Urine:
                                                                    637 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,654 mL
                                                                    594 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: A&O x3, resting comfortably, no distress
   HEENT: NC AT EOMI PERRLA
   Neck: supple, JVP flat
   CV: irregular, s1 s2, frequent premature beats
   Lungs: bronchial breath sounds bilateral bases, L>R, no wheezing
   Abd: well healed midline surgical scar, ventral hernia, distended,
   nontender, bowel sounds positive
   Ext: warm, palpable DP's, trace edema
   Labs / Radiology
   112 K/uL
   9.3 g/dL
   91 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   29 mg/dL
   113 mEq/L
   141 mEq/L
   28.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2191-4-22**]  09:21 PM
                             [**2191-4-23**]  03:11 AM
                             [**2191-4-24**]  03:48 AM
                             [**2191-4-25**]  05:00 AM
                             [**2191-4-25**]  06:45 AM
   WBC
   7.5
   7.6
   6.1
   5.6
   Hct
   34.1
   34.6
   28.4
   28.1
   Plt
   93
   109
   106
   112
   Cr
   0.9
   0.8
   0.6
   TropT
   0.01
   0.02
   Glucose
   83
   85
   91
   Other labs: PT / PTT / INR:15.7/29.9/1.4, CK / CKMB /
   Troponin-T:1229/8/0.02, ALT / AST:19/56, Alk Phos / T Bili:41/0.3,
   Differential-Neuts:72.8 %, Lymph:20.5 %, Mono:6.4 %, Eos:0.2 %,
   Albumin:2.8 g/dL, LDH:223 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.0
   mg/dL
   Blood cx [**4-22**]: NGTD
   Urine cx [**4-22**]: > 100K GNR
   Sputum: cancelled
   Legionella: neg
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 URINARY TRACT INFECTION (UTI)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 ATRIAL FIBRILLATION (AFIB)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Ms. [**Known lastname 5683**] is an 86 yo F with PMH schizoprenia, paroxysmal atrial
   fibrillation, HTN admitted with Healthcare assoc LLL pneumonia.
   .
   #Health Care Associated pneumonia - large left lower lobe infiltrate on
   CXR.  Respiratory function stable on admission, though has been
   desatting occationally and requiring face tent.  Borderline
   hypotension, fever of 103 and tachycardia c/w SIRS/sepsis yesterday.
   -continue with broad coverage vanc, cefepime, levo given h/o resistant
   gram negative organisms
   -Plan to D/C levo once urine speciates
   -IVF boluses prn
   -continue O2 by nasal cannula
   -Monitor BP closely
   -sputum culture contaminated -> resend
   -Legionella negative
   - Pulm Toilet
   .
   #Paroxysmal Atrial fibrillation - she was in RVR on admission with rate
   in th 150's responded to IV metoprolol x2.  In and out of Afib on
   arrival to the floor.  Yesterday was mostly in afib.  Dropped BP after
   given low dose metoprolol.  Likely exacerbated by acute infection on
   admission.
   -Given digoxin x1
   -not on anticoagulation at baseline
   -continue ASA 325
   -Increase metoprolol to 25mg [**Hospital1 **]
   .
   #UTI: urine cx with >100k GNR.  Cont antiobiotics as per above
   - Narrow as able
   .
   # Dysphagia: Had trouble yesterday swallowing pills and food.
   - Swallow eval today
   - Puree with honey thickened liquids for now
   .
   #Schizophrenia - stable
   -continue depakote and perphenazine -> depakote sprinkles
   -takes perphenazine 2mg q4 as needed for agitation
   .
   #Hypertension - hypotensive on admission [**2-14**] sirs/sepsis
   -hold atenolol/amlodipine for now
   - Metoprolol 25mg [**Hospital1 **]
   .
   #Lower extremity edema - hold home dose spironolactone for now given
   hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-4-23**] 01:00 PM
   PICC Line - [**2191-4-24**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   LLL pneumonia initially w/ septic picture, now improved.   Paroxysmal
   Afib w/ RVR remains intermittent issue.  Stable overnight. Concern over
   aspiration food/meds.  Has UTI which is covered by her broad spectrum
   abx for pneumonia.  Concern over aspiration food/meds so NPO pending
   speech & swallow eval.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2191-4-25**] 17:38 ------